US07495103B2
A solution of 5-trifluoromethyl-benzene-1,3-diamine (250 mg, 1.42 mmol) in pyridine (0.52 mL) and CH2Cl2 (6.5 mL) was cooled to 0° C. Methanesulfonyl chloride (171 mg, 1.49 mmol) was slowly added at such a rate that the temperature of the solution remained below 10° C. The mixture was stirred at ˜8° C. and then allowed to warm to room temperature after 30 min. After stiring at room temperature for 4 h, reaction was almost complete as indicated by LCMS analysis. The reaction mixture was quenched with sat. aq. NH4Cl (10 mL) solution, extracted with CH2Cl2 (4×10 mL), dried over Na2SO4, filtered, and concentrated to yield N-(3-amino-5-trifluoromethyl-phenyl)-methanesulfonamide (D-19) as a reddish semisolid (0.35 g, 97%), which was used without further purification. 1H-NMR (CDCl3, 300 MHz) δ 6.76 (m, 1H), 6.70 (m, 1H), 6.66 (s, 1H), 3.02 (s, 3H); ESI-MS 255.3 m/z (MH+).

reactant | 5-trifluoromethyl-benzene-1,3-diamine | 1.42 mmol, 250 mg | FC(C=1C=C(C=C(C1)N)N)(F)F | C7H7F3N2
reactant | Methanesulfonyl chloride | 1.49 mmol, 171 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 0.52 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 6.5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-amino-5-trifluoromethyl-phenyl)-methanesulfonamide | NC=1C=C(C=C(C1)C(F)(F)F)NS(=O)(=O)C | C8H9F3N2O2S
